US07081470B2
1-[(5-CHLORO-1-BENZOTHIEN-3-YL)METHYL]-3-{[3-(TRIFLUOROMETHYL)PHENYL]IMINO}-1,3-DIHYDRO-2H-INDOL 2-ONE
A mixture of 1-[(5-chloro-1-benzothien-3-yl)methyl]-2H-indole-2,3-dione (50 mg, 0.15 mmol) (prepared as described below) and 3-trifluoromethylaniline (0.020 mL, 0.15 mmol) was heated neat at 140° C. for 2 h. The crude material was purified by preparative TLC using a mixture of 1:3 ethyl acetate and hexane as the eluent giving the desired product as a yellow solid (13 mg, 0.030 mmol, 18%). 1H NMR (400 MHz): δ 7.98 (d, J=2.0, 1H), 7.80 (d, J=8.6, 1H), 7.58 (t, J=7.7, 1H), 7.52 (d, J=8.1, 1H), 7.43 (s, 1H), 7.38 (dd, J=8.6, 1.9, 1H), 7.31 (overlapping singlet and dt, J=1.2, 7.8, 2H), 7.24 (d, J=7.8, 1H), 6.87 (d, J=7.9, 1H), 6.77 (t, J=7.7, 1H), 6.59 (d, J=7.7, 1H), 5.20 (s, 2H). ESI-MS m/z found 471 (MH+ with 35Cl), 473 (MH+ with 37Cl).

reactant | 1-[(5-chloro-1-benzothien-3-yl)methyl]-2H-indole-2,3-dione | 0.15 mmol, 50 mg | ClC=1C=CC2=C(C(=CS2)CN2C(C(C3=CC=CC=C23)=O)=O)C1 | C17H10ClNO2S
reactant | 3-trifluoromethylaniline | 0.15 mmol, 0.020 mL | FC(C=1C=C(N)C=CC1)(F)F | C7H6F3N
product | 1-[(5-CHLORO-1-BENZOTHIEN-3-YL)METHYL]-3-{[3-(TRIFLUOROMETHYL)PHENYL]IMINO}-1,3-DIHYDRO-2H-INDOL 2-ONE | 0.030 mmol, 13 mg, 18% | ClC=1C=CC2=C(C(=CS2)CN2C(C(C3=CC=CC=C23)=NC2=CC(=CC=C2)C(F)(F)F)=O)C1 | C24H14ClF3N2OS
